US08461328B2
Sodium nitrite (12 mg, 0.17 mmol) was added to a solution of trans 4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanecarboxylic acid isopropylamide (70 mg, 0.15 mmol) in acetic acid (1 mL) and stirred for 45 minutes. The mixture was concentrated under vacuum affording trans 4-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclohexanecarboxylic acid isopropylamide which was used for the next step without further purification. LCMS (Method B, ESI): RT=3.58 min, m+H=467.35.

reactant | Sodium nitrite | 0.17 mmol, 12 mg | N(=O)[O-].[Na+]
reactant | trans 4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanecarboxylic acid isopropylamide | 0.15 mmol, 70 mg | C(C)(C)NC(=O)[C@@H]1CC[C@H](CC1)NC1=C2C(=NC=C1N)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C23H29N5O3S
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | trans 4-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclohexanecarboxylic acid isopropylamide | C(C)(C)NC(=O)[C@@H]1CC[C@H](CC1)N1N=NC2=CN=C3N(C=CC3=C12)S(=O)(=O)C1=CC=CC=C1 | C23H26N6O3S
